Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
ibuprofen
 
Attending: ___.
 
Chief Complaint:
abdominal pain
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
___ w/ no significant medical history presents w/ abdominal pain 
and bloating x 4 days described as mild-moderate epigastric 
abdominal pain that started soon after eating a large meal at a 
buffet. That night it was associated with diarrhea that has not 
recurred. Symptoms persisted but didn't interfere with his day 
to day activities. He eventually noticed yellowing of his skin 
and pale stools and starting having subjective fevers, prompting 
him to see his PCP. Labs revealed abnormal LFTs (TBili 5.5, 
direct bili 3.6, ap 391. ast 160, alt 410) and he was instructed 
to come to the ED. He had 2 similar episodes in the past w/ the 
most recent one year ago that prompted workup for H.pylori w/ 
negative urea breath test and eventual resolution of his 
symptoms. 

No reported sick contacts. No one else got sick from the buffet 
meal. Never had hepatitis. Vaccinated against hepatitis A + B 
virus. Drinks one drink/month. Never has binge-drank. No new 
medications including over the counter. Denies unprotected sex 
but tells me he gets tested frequently for STDs as recently as 
yesterday at his PCPs office. HIV screen ___ negative. He 
does have outdoor exposure. 

In the ED, initial VS were:  T99, HR 81, BP 124/76, RR 16, 99% 
RA. ED labs were notable for: INR/Hct/Plt - Labs: INR 1, Hct 
46.1, plt 229, ALT 376, AST 148, AP 383, TB 4.8, DB 3.9, lip 
108, UA +WBC. Imaging showed: RUQUS (___): No cholelithiasis or 
cholecystitis. Gallbladder polyps measuring up to 3 mm. OSH CT: 
no signs of obstruction, no stone. ERCP team was consulted and 
recommended admitting to medicine and obtaining an MRCP. 
 
Past Medical History:
none
 
Social History:
___
Family History:
Father had remote h/o "liver problems" but reportedly healthy 
now.
 
Physical Exam:
-Vitals: reviewed in OMR, afebrile 
-General: NAD, laying comfortably in bed 
-HENT: atraumatic, normocephalic, moist mucus membranes
-Eyes: PERRL, EOMi, no icterus 
-Cardiovascular: RRR, no murmur 
-Pulmonary: clear b/l, no wheeze 
-GI: soft, nontender, nondistended, bowel sounds presents - 
overall improved from yesterday back to baseline  
-GU: no foley, no CVA/suprapubic tenderness 
-MSK: No pedal edema, no joint swelling 
-Skin: No rashes or ulcerations.  no appreciable jaundice. 
-Neuro: no focal neurological deficits, CN ___ grossly intact 
-Psychiatric: appropriate mood and affect 
 
Pertinent Results:
ADMISSION LABS
___ 02:49AM BLOOD WBC-7.4 RBC-5.03 Hgb-15.2 Hct-46.1 MCV-92 
MCH-30.2 MCHC-33.0 RDW-12.0 RDWSD-40.4 Plt ___
___ 02:49AM BLOOD Neuts-78.0* Lymphs-9.4* Monos-7.9 Eos-3.8 
Baso-0.4 Im ___ AbsNeut-5.80 AbsLymp-0.70* AbsMono-0.59 
AbsEos-0.28 AbsBaso-0.03
___ 02:49AM BLOOD ___ PTT-36.9* ___
___ 02:49AM BLOOD Glucose-104* UreaN-5* Creat-0.7 Na-140 
K-3.6 Cl-99 HCO3-25 AnGap-16
___ 02:49AM BLOOD ALT-376* AST-148* AlkPhos-383* 
TotBili-4.8* DirBili-3.9* IndBili-0.9
___ 02:49AM BLOOD Lipase-108*
___ 02:49AM BLOOD Albumin-4.6 Calcium-9.2 Phos-2.5* Mg-2.1
___ 02:49AM BLOOD Lactate-1.2

MRCP: IMPRESSION: Normal MRI appearance of the liver and biliary 
system.  No MRCP explanation for elevated LFTs.

RUQ US IMPRESSION: No findings of biliary obstruction. No 
cholelithiasis or cholecystitis.

DISCHARGE LABS
___ 05:52AM BLOOD WBC-9.7 RBC-4.64 Hgb-14.2 Hct-42.5 MCV-92 
MCH-30.6 MCHC-33.4 RDW-12.0 RDWSD-40.0 Plt ___
___ 05:52AM BLOOD ___
___ 05:52AM BLOOD Glucose-86 UreaN-7 Creat-0.6 Na-137 K-4.1 
Cl-95* HCO3-25 AnGap-17
___ 05:35AM BLOOD ALT-280* AST-91* AlkPhos-412* TotBili-1.5
___ 05:52AM BLOOD Calcium-9.4 Mg-2.2
___ 06:00AM BLOOD Triglyc-159* HDL-35* CHOL/HD-5.2 
LDLcalc-114
___ 01:10PM BLOOD Smooth-NEGATIVE
___ 01:10PM BLOOD IgG-1370 IgM-134
___ 01:10PM BLOOD HIV Ab-NEG, HIV1 VL-NOT DETECT
___ 06:10AM BLOOD HBsAg-NEG HBsAb-POS HBcAb-NEG HAV Ab-POS*
___ 06:10AM BLOOD HCV Ab-NEG
___ 01:10PM BLOOD IgM HAV-NEG
___ 01:10PM BLOOD tTG-IgA-14 
___ 05:20AM BLOOD QUANTIFERON-TB GOLD- negative  
___:10PM BLOOD LYME DISEASE ANTIBODY: IgM positive, IgG 
negative
___ 01:10PM BLOOD LEPTOSPIRA ANTIBODY- negative 
___ 06:00AM BLOOD ANAPLASMA PHAGOCYTOPHILUM (HUMAN 
GRANULOCYTIC EHRLICHIA AGENT) IGG/IGM- negative     
___ 05:20AM BLOOD BRUCELLA ANTIBODY, AGGLUTINATION-PND
 
Brief Hospital Course:
___ w/ no significant medical history presents with 4 days of 
abdominal pain and nausea/vomiting found to have transaminitis 
and cholestasis. 

1. Lyme disease
-IgM positive and initiated doxycycline treatment ___, which 
will be continued for 2 weeks through ___.

2. Transaminitis, cholestasis, hyperbilirubinema (conjugated), 
and abdominal pain
-Mixed picture with unclear etiology in setting of normal MRCP.  
As per ERCP team no indication for ERCP at this time.  Initial 
diagnosis broad including infectious, autoimmune, and 
infiltrative process.  Lyme IgM resulted positive ___, which 
is likely cause of lab abnormities and liver biopsy not 
indicated at this time.  He will follow up w/ GI/hepatology 
outpatient follow w/ Dr. ___ to ensure LFTs normalize 
following lyme treatment.   

3. Constipation and ileus 
-Unclear etiology potentially related to decreased activity, 
decreased PO intake, and acute illness.  There is not a common 
association with lyme and ileus but may be related. Patient will 
good response to suppository and will continue w/ docusate & 
senna outpatient.  

4. Asymptomatic pyuria
-Urine culture with 10,000-100,000 alpha hemolytic strep without
indication for treatment. Gonorrhea and chlamydia negative. 

5. GERD, hiccups
-Patient with good response to Chlorpromazine.  At discharge 
patient requests short course of antacid and antinausea meds 
given prescriptions for ranitidine and metoclopramide PRN. 

>30 minutes spent on discharge planning 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. This patient is not taking any preadmission medications

 
Discharge Medications:
1.  Docusate Sodium 100 mg PO BID:PRN constipation RX *docusate 
sodium 100 mg 1 tablet(s) by mouth BID PRN Disp #*30 Tablet 
Refills:*0 
2.  Doxycycline Hyclate 100 mg PO Q12H  take through ___ RX 
*doxycycline hyclate 100 mg 1 tablet(s) by mouth twice a day 
Disp #*25 Tablet Refills:*0 
3.  Metoclopramide 10 mg PO TID:PRN nausea/vomiting RX 
*metoclopramide HCl 10 mg 1 tab by mouth TID PRN Disp #*15 
Tablet Refills:*0 
4.  Ranitidine 75 mg PO BID:PRN indigestion  Duration: 14 Days 
take before eating  RX *ranitidine HCl 75 mg 1 tablet(s) by 
mouth BID PRN Disp #*28 Tablet Refills:*0 
5.  Senna 17.2 mg PO DAILY RX *sennosides [senna] 8.6 mg ___ tab 
by mouth daily PRN Disp #*30 Tablet Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Abnormal liver testing, elevated bilirubin
Lyme disease
Constipation, Ileus 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Mr. ___,

You were admitted with elevated bilirubin and abnormal liver 
testing.  Your imaging was normal and lab tests positive for 
lyme disease and you were started on doxycycline, which you 
should continue for 14 days.  You will continue outpatient 
follow up with gastroenterology to ensure your liver numbers 
have resolved.  

Your hospital course was complicated by ileus, which improved 
with aggressive bowel regimen. You can continue a bowel regimen 
as needed to ensure you have 1 soft bowel movement every ___ 
days. 

It was a pleasure taking care of you.
-Your ___ team
 
Followup Instructions:
___